US07968570B2
A mixture of 4-fluoro-2-cyano-6-methyl-benzoic acid methyl ester (1.04 g, 5.38 mmol), N-bromosuccinamide (1.25 g, 7.0 mmol), and benzoyl peroxide (0.024 g, 0.146 mmol) in carbon tetrachloride (50 mL) was heated at reflux until majority of ester was consumed (as analyzed by GC/MS). The resulting mixture was filtered, the filtrate was concentrated to afford 2-bromomethyl-4-fluoro-6-cyano-benzoic acid methyl ester. The material was used without further purification.

reactant | 4-fluoro-2-cyano-6-methyl-benzoic acid methyl ester | 5.38 mmol, 1.04 g | COC(C1=C(C=C(C=C1C)F)C#N)=O | C10H8FNO2
reactant | N-bromosuccinamide | 7.0 mmol, 1.25 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | benzoyl peroxide | 0.146 mmol, 0.024 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-4-fluoro-6-cyano-benzoic acid methyl ester | COC(C1=C(C=C(C=C1C#N)F)CBr)=O | C10H7BrFNO2
